US06576631B1
4-Chloro-N-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-2-nitroaniline (Compound Number 2-53)
4-Chloro-2-nitroaniline (5.0 g) and sodium hydrogencarbonate (3.6 g) were dissolved in tetrahydrofuran (50 ml), and cyanuric chloride (8.0 g) was added thereto, followed by stirring for 8 hours. To the reaction solution, 28% sodium methylate (11.2 g) was added, followed by ref lux for 1 hour. Water was added thereto, followed by extraction with ethyl acetate, washing with a saturated sodium chloride aqueous solution and drying over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was subjected to recrystallization from ethanol to obtain 6.3 of the desired product as a yellow powder (m.p. 206-208° C.).

reactant | 4-Chloro-2-nitroaniline | 5.0 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium hydrogencarbonate | 3.6 g | C(O)([O-])=O.[Na+]
reactant | cyanuric chloride | 8.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium methylate | 11.2 g | C[O-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-Chloro-N-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-2-nitroaniline | ClC1=CC(=C(NC2=NC(=NC(=N2)OC)OC)C=C1)[N+](=O)[O-] | C11H10ClN5O4
